US06211199B1
79.1 Synthesis of 1-((R)-α-methylbenzyl)-2-oxopyrrolidine
According the the procedure of J. Am. Chem. Soc., 74, 1952 (1959), combine butyrolactone (8.6 g, 100 mmol) and (R)-α-methylbenzylamine (15.0 g, 123 mmol) and heat to 180° C. After 48 hours, heat to 210° C. After 6 hours, cool the reaction mixture and evaporate in vacuo using a short path distillation apparatus to obtain a residue: bp 110° C. at 0.5 mm Hg. Chromatograph the residue on silica gel eluting with ethyl acetate to give the title compound: Rf=0.45 (silica gel, ethyl acetate).

reactant | butyrolactone | 100 mmol, 8.6 g | C1(CCCO1)=O | C4H6O2
reactant | (R)-α-methylbenzylamine | 123 mmol, 15.0 g | C[C@H](C1=CC=CC=C1)N | C8H11N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-((R)-α-methylbenzyl)-2-oxopyrrolidine | C[C@H](C1=CC=CC=C1)N1C(CCC1)=O | C12H15NO
